US07655389B2
208 g of 9-anthracene methanol (1 mol), 309 g of dicyclohexyl carbodiimide (1.5 mol) and a methacrylic acid were stirred and dissolved in 2,000 g of a THF solution to form a preliminary mixture. 183 g of 4-dimethyl amino pyridine (1.5 mol) was injected into the preliminary mixture at a temperature of 0° C. to obtain a mixture. The mixture was stirred at room temperature for 6 hours. A solvent was then removed from the stirred mixture. The mixture without the solvent was repeatedly re-crystallized using methanol to obtain 163 g of an anthracene methacrylate monomer. 82 g of the anthracene methacrylate monomer, 34 g of p-tert-butoxystryne and 43 g of methacrylic acid were dissolved in 380 g of propylene glycol monomethyl ether acetate (PMA) to obtain a polymerization mixture. The polymerization mixture was heated at a temperature of 60° C. for 2 hours under a nitrogen atmosphere to synthesize a preliminary copolymer resin. 1 l of n-hexane was injected into the preliminary copolymer resin to remove non-polymerized portions from the preliminary copolymer resin, thereby synthesizing 120 g of copolymer resin. Here, the copolymer resin had a weight-average molecular weight of 5,600 and a dispersion degree of a molecular weight distribution of 2.4.

reactant | 9-anthracene methanol | 1 mol, 208 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CO | C15H12O
reactant | dicyclohexyl carbodiimide | 1.5 mol, 309 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
solvent | THF | 2,000 g | C1CCOC1 | C4H8O
product | anthracene methacrylate | 163 g | C(C(=C)C)(=O)O.C1=CC=CC2=CC3=CC=CC=C3C=C12 | InChI=1S/C14H10.C4H6O2/c1-2-6-12-10-14-8-4-3-7-13(14)9-11(12)5-1;1-3(2)4(5)6/h1-10H;1H2,2H3,(H,5,6)
